US07759518B2
Step E: 3-Ethyl-5,6-difluoro-N-(2-fluoro-4-iodophenyl)-2 nitroaniline
2-Fluoro-4-iodoaniline (2.05 g, 10 mmol) and 1-ethyl-3,4,5-trifluoro-2-nitrobenzene (2.37 g, 10 mmol) were reacted using the condition described in example 1 (Step A) to form the title compound (2.47 g, 60%); m/z=407 [M−1]−.

reactant | 2-Fluoro-4-iodoaniline | 10 mmol, 2.05 g | FC1=C(N)C=CC(=C1)I | C6H5FIN
reactant | 1-ethyl-3,4,5-trifluoro-2-nitrobenzene | 10 mmol, 2.37 g | C(C)C1=C(C(=C(C(=C1)F)F)F)[N+](=O)[O-] | C8H6F3NO2
product | 3-Ethyl-5,6-difluoro-N-(2-fluoro-4-iodophenyl)-2 nitroaniline | 2.47 g, 60% | C(C)C=1C(=C(NC2=C(C=C(C=C2)I)F)C(=C(C1)F)F)[N+](=O)[O-] | C14H10F3IN2O2
